US08633212B2
To a solution of tert-butyl 3-cyanoazetidine-1-carboxylate (2.1774 g, 11.95 mmol) and 4-bromo-1-(bromomethyl)-2-iodobenzene (5.0227 g, 13.36 mmol) in THF (30 mL) was added LiHMDS (1.0 Min THF, 15 mL, 15 mmol) at −78° C. The mixture was allowed to slowly warm to room temperature over 20 h. The reaction mixture was then quenched with saturated NH4Cl, extracted with EtOAc, and dried over Na2SO4. After the solvent was evaporated under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 4.2959 g (75%) of tert-butyl 3-(4-bromo-2-iodobenzyl)-3-cyanoazetidine-1-carboxylate as foam. LC-MS tR=2.17 min in 3 min chromatography, m/z 477, 479 (MH+), 462, 464 (MH+-15), 421, 423 (MH+-56).

reactant | tert-butyl 3-cyanoazetidine-1-carboxylate | 11.95 mmol, 2.1774 g | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
reactant | 4-bromo-1-(bromomethyl)-2-iodobenzene | 13.36 mmol, 5.0227 g | BrC1=CC(=C(C=C1)CBr)I | C7H5Br2I
reactant | LiHMDS | 15 mmol, 15 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(4-bromo-2-iodobenzyl)-3-cyanoazetidine-1-carboxylate | 4.2959 g, 75% | BrC1=CC(=C(CC2(CN(C2)C(=O)OC(C)(C)C)C#N)C=C1)I | C16H18BrIN2O2
